US04060688
More recently in my copending application Ser. No. 310,191 filed on Nov. 28, 1972 now U.S. Pat. No. 3,917,587 issued Nov. 4, 1974 the oxidation of 3-exomethylenecepham esters with ozone is described. The predominant product of the ozonolysis described therein is the 3-hydroxy-3-cephem ester which is reacted with a diazoalkene to provide the corresponding ester of a 3-alkoxy-3-cephem. Removal of the ester group provides the alkoxylated antibiotic compound. For example, 7-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylic acid p-nitrobenzyl ester, obtained by the ozonolysis of the corresponding 3-exomethylene compound, is reacted with diazomethane to form p-nitrobenzyl 7-phenoxyacetamido-3-methoxy-3-cephem4-carboxylate. The p-nitrobenzyl ester group is removed by catalytic hydrogenolysis in the presence of 5% palladium on carbon catalyst to provide the free carboxylic acid antibiotic compound. In the same application Ser. No. 310,191, the formation of 3-exomethylenecepham-4-carboxylic ester sulfoxides and 3-hydroxy-3-cephem-4-carboxylic acid ester sulfoxides are disclosed as side products of the ozonolysis reaction of 3-exomethylenecepham esters.

reactant | 7-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)C2=C(CS[C@H]3N2C(C3NC(COC3=CC=CC=C3)=O)=O)O)C=C1 | C22H19N3O8S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | p-nitrobenzyl 7-phenoxyacetamido-3-methoxy-3-cephem4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H21N3O8S
